2171-09-07 08:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname **] is an 85 year-old man with a history of CAD
   s/p MI, NSCLC, and diverticulosis who was admitted to [**Hospital1 1896**] for LGIB and
   chest pain and is transferred to the MICU for management of worsened
   LGIB.
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2171-9-6**] 07:49 PM
   Received in Nuc Med @ 1900 for Red Tag Scan
   [**9-6**]:
   - tagged rbc scan negative
   - transfused 2u PRBC overnight and had two episodes of 200cc brbpr
   - hct 27 -> 1u prbc -> 30 -> 26 -> 1u prbc
   - spoke to GI regarding scope on [**9-7**], waiting to hear back on final
   decision
   - surgery following, would like him to be scoped asap
   - frequent PVCs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2171-9-7**] 08:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 72 (72 - 106) bpm
   BP: 116/75(86) {112/34(65) - 152/82(91)} mmHg
   RR: 13 (8 - 24) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
           Total In:
                                                                  1,228 mL
                                                                    519 mL
   PO:
           100 mL
   TF:
   IVF:
                                                                    878 mL
                                                                     69 mL
   Blood products:
                                                                    350 mL
                                                                    350 mL
   Total out:
                                                                    575 mL
                                                                    250 mL
   Urine:
                                                                    200 mL
                                                                    250 mL
   NG:
   Stool:
                                                                    375 mL
   Drains:
   Balance:
                                                                    653 mL
                                                                    269 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   177 K/uL
   8.8 g/dL
   94 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.8 mEq/L
   24 mg/dL
   107 mEq/L
   141 mEq/L
   26.2 %
   5.9 K/uL
        [image002.jpg]
                             [**2171-9-6**]  03:44 PM
                             [**2171-9-6**]  07:37 PM
                             [**2171-9-6**]  09:20 PM
                             [**2171-9-6**]  11:50 PM
                             [**2171-9-7**]  04:09 AM
   WBC
   5.9
   5.9
   Hct
   29.9
   28.8
   27.6
   30.6
   26.2
   Plt
   196
   177
   Cr
   0.7
   Glucose
   94
   Other labs: PT / PTT / INR:13.4/29.1/1.1, Differential-Neuts:82.5 %,
   Lymph:10.2 %, Mono:5.9 %, Eos:1.2 %, Albumin:3.0 g/dL, Ca++:7.8 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is an 85 year-old man with a history of CAD s/p MI, NSCLC, and
   diverticulosis who was admitted to [**Hospital1 1896**] for LGIB and chest pain and is
   transferred to the MICU for management of worsened LGIB.
   # GI bleed:  Likely lower GI diverticular bleed, as patient has BRBPR
   and history of severe diverticulosis.  Also on differential are colonic
   mass, AVM, and colitis, though these are less likely.  Currently
   hemodynamically stable but history of CAD places him at higher risk of
   demand ischemia in the setting of anemia.  S/p 4u prbc.
   - has 3 PIVs (18G) for access
   - maintain active type and screen
   - hct checks q6hr
   - transfuse to maintain hct of 30
   - consider platelet transfusion given aspirin use
   - IR aware
   - surgery aware
   - will discuss colonoscopy with GI given persistent bleeding
   # CAD: Has history of prior NSTEMIs and is s/p PCI.  Positive troponin
   and neg CK/CK-MB during this admission suggests prior ACS vs demand
   ischemia in the setting of anemia, though lowest hct only 28.  Given
   risk of life threatening bleed, will hold aspirin for now; plavix and
   heparin were not started after admission b/c of bleeding.  CP free at
   this time.  Discussed with cards fellow.
   - not on beta blocker at home and would not start at this time
   - hold aspirin
   - continue statin
   # NSCLC: Has stage IIb lesion in RUL diagnosed in [**2-25**], s/p
   chemotherapy and radiation.  Patient of Dr. [**Last Name (STitle) 4197**].
   - will f/u with Dr. [**Last Name (STitle) 4197**] as an outpatient
   # BPH: Stable.
   - Continue finasteride
   # Dyslipidemia:
   - Continue simvastatin.
   # FEN: NPO for now.  IVFs as needed.
   # ACCESS: 18G PIVs x 3
   # CODE: full, discussed with patient
   # DISPO: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-9-6**] 05:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2171-09-07 09:11:00 Physician Attending Progress Note
Chief Complaint: LGI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2171-9-6**] 07:49 PM
   Received in Nuc Med @ 1900 for Red Tag Scan
   - Tagged rbc scan negative for active bleeding
   - transfused 2 units of prbc for 2 bloody bowel movements and drop in
   Hct
   - Hct dropped to nadir of 26 overnight
   - seen by surgery and GI this morning
   - frequent PVCs, 7 beat run of NSVT
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea, No(t) Tachypnea
   Flowsheet Data as of  [**2171-9-7**] 09:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 71 (66 - 106) bpm
   BP: 109/63(74) {109/34(65) - 152/82(91)} mmHg
   RR: 18 (8 - 24) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
           Total In:
                                                                  1,228 mL
                                                                    525 mL
   PO:
           100 mL
   TF:
   IVF:
                                                                    878 mL
                                                                     75 mL
   Blood products:
                                                                    350 mL
                                                                    350 mL
   Total out:
                                                                    575 mL
                                                                    250 mL
   Urine:
                                                                    200 mL
                                                                    250 mL
   NG:
   Stool:
                                                                    375 mL
   Drains:
   Balance:
                                                                    653 mL
                                                                    275 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   rare at right base which clears with breathing)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): 3
   sphere, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   177 K/uL
   94 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.8 mEq/L
   24 mg/dL
   107 mEq/L
   141 mEq/L
   26.2 %
   5.9 K/uL
        [image002.jpg]
                             [**2171-9-6**]  03:44 PM
                             [**2171-9-6**]  07:37 PM
                             [**2171-9-6**]  09:20 PM
                             [**2171-9-6**]  11:50 PM
                             [**2171-9-7**]  04:09 AM
   WBC
   5.9
   5.9
   Hct
   29.9
   28.8
   27.6
   30.6
   26.2
   Plt
   196
   177
   Cr
   0.7
   Glucose
   94
   Other labs: PT / PTT / INR:13.4/29.1/1.1, Differential-Neuts:82.5 %,
   Lymph:10.2 %, Mono:5.9 %, Eos:1.2 %, Albumin:3.0 g/dL, Ca++:7.8 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   LGI bleed with recurrent bloody bowel movements and decreased Hcts, s/p
   4 units prbc since admission. Tagged rbc scan negative. Hemodynamically
   he has been stable but remains critically ill with evidence of active
   bleeding. If he continues to bleed will consider repeating tagged rbc
   scan+/- IR.  Otherwise, plan is to prep him for colonoscopy in AM.
   Surgery aware.
   Acute blood loss anemia
 q6h Hct and transfuse prn to keep Hct ~30.
   CAD
 likely had demand ischemia. ASA on hold but will need to be
   restarted once stable from GIB. He has cardiologist at NWH.
   NSCLC
 stage 2B s/p chemo/xrt
   ICU Care
   Nutrition: NPO except meds
   Glycemic Control:
   Lines: three 18 Gauge - [**2171-9-6**] 05:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2171-09-08 07:50:00 Physician Resident Progress Note
Chief Complaint: GI Bleed
   24 Hour Events:
   - prepped for scope in am
   - HCT 27--35--29: Received 1 U PRBCs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-9-8**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.6
   HR: 59 (59 - 99) bpm
   BP: 132/57(74) {109/39(59) - 159/66(86)} mmHg
   RR: 17 (8 - 25) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
           Total In:
                                                                  5,135 mL
                                                                    262 mL
   PO:
                                                                  4,460 mL
           TF:
   IVF:
                                                                    325 mL
                                                                     78 mL
   Blood products:
                                                                    350 mL
                                                                    184 mL
   Total out:
                                                                  4,400 mL
                                                                    430 mL
   Urine:
                                                                    600 mL
                                                                    430 mL
   NG:
   Stool:
                                                                  3,800 mL
   Drains:
   Balance:
                                                                    735 mL
                                                                   -168 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   161 K/uL
   9.3 g/dL
   90 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.8 mEq/L
   18 mg/dL
   103 mEq/L
   139 mEq/L
   26.5 %
   4.4 K/uL
        [image002.jpg]
                             [**2171-9-6**]  03:44 PM
                             [**2171-9-6**]  07:37 PM
                             [**2171-9-6**]  09:20 PM
                             [**2171-9-6**]  11:50 PM
                             [**2171-9-7**]  04:09 AM
                             [**2171-9-7**]  11:11 AM
                             [**2171-9-7**]  02:52 PM
                             [**2171-9-7**]  05:52 PM
                             [**2171-9-7**]  09:31 PM
                             [**2171-9-8**]  03:50 AM
   WBC
   5.9
   5.9
   4.4
   Hct
   29.9
   28.8
   27.6
   30.6
   26.2
   29.0
   35.1
   27.9
   29.0
   26.5
   Plt
   196
   177
   161
   Cr
   0.7
   0.7
   Glucose
   94
   90
   Other labs: PT / PTT / INR:13.7/27.5/1.2, Differential-Neuts:82.5 %,
   Lymph:10.2 %, Mono:5.9 %, Eos:1.2 %, Albumin:3.0 g/dL, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is an 85 year-old man with a history of CAD s/p MI, NSCLC, and
   diverticulosis who was admitted to [**Hospital1 1896**] for LGIB and chest pain and is
   transferred to the MICU for management of worsened LGIB.
   # GI bleed:  Likely lower GI diverticular bleed, as patient has BRBPR
   and history of severe diverticulosis.  Also on differential are colonic
   mass, AVM, and colitis, though these are less likely.  Currently
   hemodynamically stable but history of CAD places him at higher risk of
   demand ischemia in the setting of anemia.  S/p 1U prbc yesterday.
   - Colonoscopy without evident source b ut multiple diver/la.
   - Maintatin 3 PIVs (18G) for access
   - Maintain active type and screen
   - hct checks q6hr (10 am, 4 PM)
   - transfuse to maintain hct of 30
   - F/U surgery
   # CAD: Has history of prior NSTEMIs and is s/p PCI.  Positive troponin
   and neg CK/CK-MB during this admission suggests prior ACS vs demand
   ischemia in the setting of anemia, though lowest hct only 28.  Given
   risk of life threatening bleed, will hold aspirin for now; plavix and
   heparin were not started after admission b/c of bleeding.  CP free at
   this time.  Discussed with cards fellow.
   - not on beta blocker at home and would not start at this time
   - hold aspirin, restart low dose aspirin once HCT stabilizes. d/c
   plavix.
   - continue statin
   # NSCLC: Has stage IIb lesion in RUL diagnosed in [**2-25**], s/p
   chemotherapy and radiation.  Patient of Dr. [**Last Name (STitle) 4197**].
   - will f/u with Dr. [**Last Name (STitle) 4197**] as an outpatient
   # BPH: Stable.
   - Continue finasteride
   # Dyslipidemia:
   - Continue simvastatin.
   ICU Care
   Nutrition: NPO, IVFs as needed
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-9-6**] 05:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Pending colonoscopy today

2171-09-08 10:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   LGI bleed
   24 Hour Events:
   Transfused 1 unit PRBC for Hct 26
   Colonoscopy - hundreds of diverticula per GI team, source of bleeding
   not idenitified
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Mg oxide, vit D, ca, zocor, pred eye drops, proscar, celexa. ASA/PLAVIX
   on hold
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-9-8**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.1
   HR: 61 (59 - 99) bpm
   BP: 117/89(95) {117/39(59) - 159/89(95)} mmHg
   RR: 22 (8 - 25) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
           Total In:
                                                                  5,135 mL
                                                                    507 mL
   PO:
                                                                  4,460 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    325 mL
                                                                    105 mL
   Blood products:
                                                                    350 mL
                                                                    282 mL
   Total out:
                                                                  4,400 mL
                                                                    530 mL
   Urine:
                                                                    600 mL
                                                                    530 mL
   NG:
   Stool:
                                                                  3,800 mL
   Drains:
   Balance:
                                                                    735 mL
                                                                    -23 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), SEM
   Peripheral Vascular: PPP
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting, Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   161 K/uL
   90 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.8 mEq/L
   18 mg/dL
   103 mEq/L
   139 mEq/L
   26.5 %
   4.4 K/uL
        [image002.jpg]
                             [**2171-9-6**]  03:44 PM
                             [**2171-9-6**]  07:37 PM
                             [**2171-9-6**]  09:20 PM
                             [**2171-9-6**]  11:50 PM
                             [**2171-9-7**]  04:09 AM
                             [**2171-9-7**]  11:11 AM
                             [**2171-9-7**]  02:52 PM
                             [**2171-9-7**]  05:52 PM
                             [**2171-9-7**]  09:31 PM
                             [**2171-9-8**]  03:50 AM
   WBC
   5.9
   5.9
   4.4
   Hct
   29.9
   28.8
   27.6
   30.6
   26.2
   29.0
   35.1
   27.9
   29.0
   26.5
   Plt
   196
   177
   161
   Cr
   0.7
   0.7
   Glucose
   94
   90
   Other labs: PT / PTT / INR:13.7/27.5/1.2, Differential-Neuts:82.5 %,
   Lymph:10.2 %, Mono:5.9 %, Eos:1.2 %, Albumin:3.0 g/dL, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   LGI bleed with recurrent bloody bowel movements and decreased Hcts, s/p
   5 units prbc since admission. Tagged rbc scan negative. Hemodynamically
   he has been stable but remains critically ill with evidence of
   slow/active bleeding. If hct drops significants or bloody BMs, would
   repeat tagged rbc scan +/- IR.  Otherwise, will watch for now. Surgery
   aware. ASA on hold. Would d/c plavix indefinitely.
   Acute blood loss anemia
 q6h Hct and transfuse prn to keep Hct ~30.
   CAD
 likely had demand ischemia. ASA on hold but will need to be
   restarted once stable from GIB. He has cardiologist at NWH.
   NSCLC
 stage 2B s/p chemo/xrt
   Dementia
 poor short term memory
   ICU Care
   Nutrition: clear liquids
   Glycemic Control:
   Lines: 18 Gauge - [**2171-9-6**] 05:57 PM
   Prophylaxis:
   DVT: (in/out of bed)
   Stress ulcer:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2171-09-09 09:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname **] is an 85 year-old man with a history of CAD
   s/p MI, NSCLC, and diverticulosis who was admitted to [**Hospital1 1896**] for LGIB and
   chest pain and is transferred to the MICU for management of worsened
   LGIB.
   24 Hour Events:
   - Patient received 3 [**Location 9349**] yesterday afternoon.  Hct 26.5 -> 29.7
   -> 29.2 -> 33.9
   - Colonoscopy yesterday showed diffuse diverticula in the colon.  No
   evidence of active bleeding.
   -  Patient developed abdominal pain/distension yesterday after the
   colonoscopy.  KUB showed diffuse air in the colon, c/w adynamic ileus.
   - He walked around the unit and passed a large amount of flatulence.
   Abdominal pain and distension improved.
   - Started Enalapril 2.5 mg ([**1-18**] previous home dose) as patient was
   persistently hypertensive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-9-9**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96
   HR: 53 (52 - 75) bpm
   BP: 120/48(68) {102/42(60) - 181/77(90)} mmHg
   RR: 16 (0 - 22) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
                  Total In:
                                                                  1,850 mL
                                                                    163 mL
   PO:
                                                                    480 mL
                  TF:
   IVF:
                                                                    550 mL
   Blood products:
                                                                    820 mL
                                                                    163 mL
   Total out:
                                                                  2,310 mL
                                                                    420 mL
   Urine:
                                                                  1,960 mL
                                                                    420 mL
   NG:
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                   -460 mL
                                                                   -258 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   160 K/uL
   11.6 g/dL
   92 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.8 mEq/L
   10 mg/dL
   104 mEq/L
   139 mEq/L
   33.9 %
   4.4 K/uL
        [image002.jpg]
                             [**2171-9-6**]  11:50 PM
                             [**2171-9-7**]  04:09 AM
                             [**2171-9-7**]  11:11 AM
                             [**2171-9-7**]  02:52 PM
                             [**2171-9-7**]  05:52 PM
                             [**2171-9-7**]  09:31 PM
                             [**2171-9-8**]  03:50 AM
                             [**2171-9-8**]  11:25 AM
                             [**2171-9-8**]  08:17 PM
                             [**2171-9-9**]  03:39 AM
   WBC
   5.9
   4.4
   4.4
   Hct
   30.6
   26.2
   29.0
   35.1
   27.9
   29.0
   26.5
   29.7
   29.2
   33.9
   Plt
   177
   161
   160
   Cr
   0.7
   0.7
   0.7
   Glucose
   94
   90
   92
   Other labs: PT / PTT / INR:13.0/27.5/1.1, Differential-Neuts:82.5 %,
   Lymph:10.2 %, Mono:5.9 %, Eos:1.2 %, Albumin:3.0 g/dL, Ca++:8.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is an 85 year-old man with a history of CAD s/p MI, NSCLC, and
   diverticulosis who was admitted to [**Hospital1 1896**] for LGIB and chest pain and is
   transferred to the MICU for management of worsened LGIB.
   # GI bleed:  Likely diverticular, though colonoscopy was not revealing
   for focus of bleed.  Also on differential are colonic mass, AVM, and
   colitis, though these are less likely.  Currently hemodynamically
   stable but history of CAD places him at higher risk of demand ischemia
   in the setting of anemia.  S/p 3U prbc yesterday.
   - Maintatin 3 PIVs (18G) for access
   - Maintain active type and screen
   - Check PM Hct at 5 PM
   - Transfuse to maintain hct of 30
   - F/U surgery recs
   # CAD: Has history of prior NSTEMIs and is s/p PCI.  Positive troponin
   and neg CK/CK-MB during this admission suggests prior ACS vs demand
   ischemia in the setting of anemia, though lowest hct only 28.
   - Hold ASA today, but consider restarting tomorrow if Hct is stable
   - Continue to hold Plavix, given history of life-threatening bleed.
   - Continue Statin
   - Continue Enalapril 2.5 mg daily
   # NSCLC: Has stage IIb lesion in RUL diagnosed in [**2-25**], s/p
   chemotherapy and radiation.  Patient of Dr. [**Last Name (STitle) 4197**].
   - will f/u with Dr. [**Last Name (STitle) 4197**] as an outpatient
   # BPH: Stable.
   - Continue finasteride
   # Dyslipidemia:
   - Continue simvastatin.
   ICU Care
   Nutrition: Advance as tolerated to regular
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-9-6**] 05:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  To floor

2171-09-09 11:54:00 Physician Attending Progress Note
Chief Complaint: gib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85M with cad s/p pci on asa and plavix, presented with GIB, likely
   diverticular in origin, now off anti-platelet agents.
   24 Hour Events:
   -abd distension resolved
   -hct stable now, off antipletelet
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   vitd, ca, zocor, celexa, ramipril,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Ear, Nose, Throat: No(t) OG / NG tube
   Nutritional Support: NPO
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, Constipation
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-9-9**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96
   HR: 56 (52 - 75) bpm
   BP: 140/51(71) {102/42(60) - 181/77(90)} mmHg
   RR: 19 (10 - 22) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
                  Total In:
                                                                  1,850 mL
                                                                    163 mL
   PO:
                                                                    480 mL
                  TF:
   IVF:
                                                                    550 mL
   Blood products:
                                                                    820 mL
                                                                    163 mL
   Total out:
                                                                  2,310 mL
                                                                    890 mL
   Urine:
                                                                  1,960 mL
                                                                    890 mL
   NG:
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                   -460 mL
                                                                   -728 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No(t) Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   160 K/uL
   92 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.8 mEq/L
   10 mg/dL
   104 mEq/L
   139 mEq/L
   33.9 %
   4.4 K/uL
        [image002.jpg]
                             [**2171-9-6**]  11:50 PM
                             [**2171-9-7**]  04:09 AM
                             [**2171-9-7**]  11:11 AM
                             [**2171-9-7**]  02:52 PM
                             [**2171-9-7**]  05:52 PM
                             [**2171-9-7**]  09:31 PM
                             [**2171-9-8**]  03:50 AM
                             [**2171-9-8**]  11:25 AM
                             [**2171-9-8**]  08:17 PM
                             [**2171-9-9**]  03:39 AM
   WBC
   5.9
   4.4
   4.4
   Hct
   30.6
   26.2
   29.0
   35.1
   27.9
   29.0
   26.5
   29.7
   29.2
   33.9
   Plt
   177
   161
   160
   Cr
   0.7
   0.7
   0.7
   Glucose
   94
   90
   92
   Other labs: PT / PTT / INR:13.0/27.5/1.1, Differential-Neuts:82.5 %,
   Lymph:10.2 %, Mono:5.9 %, Eos:1.2 %, Albumin:3.0 g/dL, Ca++:8.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Imaging: kub: No previous images. There is a large amount of gas within
   both
   large and small bowel, most likely representing an adynamic ileus. If
   there
   is serious clinical concern for obstruction, CT would be recommended.
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   85M with cad s/p pci on asa and plavix, presented with GIB, likely
   diverticular in origin, now off anti-platelet agents with stable hct.
   Will plan to restart asa tomorrow  per GI recs.  Will continue to hold
   clopidogrel indefinitely. If bleeds again would need bleeding scan, IR.
   Other issues per resident notes. Plans include follow-up with onc for
   palliative chemo, and restarting home meds for htn.
   ICU Care
   Nutrition: advance as tolerated after discussion with GI.
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2171-9-6**] 05:57 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition : Txr to Floor
   Total time spent: 35 minutes
   Patient is not critically ill